* c:\neww\parthiban123\parthiban123.cir

.include avsd_opamp.sub
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
x2 net-_u1-pad7_ net-_x2-pad2_ net-_u1-pad7_ in1 net-_sc1-pad1_ gnd avsd_opamp
x3 net-_sc1-pad1_ net-_x3-pad2_ net-_sc1-pad1_ net-_sc7-pad2_ out1 gnd avsd_opamp
x1 net-_u2-pad7_ net-_x1-pad2_ net-_u2-pad7_ in2 net-_sc7-pad2_ gnd avsd_opamp
* u1  net-_sc3-pad2_ net-_sc2-pad2_ net-_sc1-pad2_ net-_sc1-pad1_ gnd gnd net-_u1-pad7_ mux61
* u2  net-_sc7-pad2_ net-_sc6-pad2_ net-_sc5-pad2_ net-_sc4-pad2_ gnd gnd net-_u2-pad7_ mux61
v2 net-_u1-pad7_ gnd  dc 0
v5 gnd net-_x2-pad2_  dc 5
v4  in1 gnd sine(0 0.05 1 0 0)
v1 net-_u2-pad7_ gnd  dc 5
v3  in2 gnd sine(0 0.05 1 0 0)
v6 gnd net-_x1-pad2_  dc 1
xsc1 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd L=0.85
xsc2 net-_sc1-pad2_ net-_sc2-pad2_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd L=0.85
xsc3 net-_sc2-pad2_ net-_sc3-pad2_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd L=0.85
xsc4 net-_sc3-pad2_ net-_sc4-pad2_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd L=0.85
xsc5 net-_sc4-pad2_ net-_sc5-pad2_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd L=0.85
xsc6 net-_sc5-pad2_ net-_sc6-pad2_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd L=0.85
xsc7 net-_sc6-pad2_ net-_sc7-pad2_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd L=0.85
v7 net-_sc1-pad1_ gnd  dc 1
v8 gnd net-_x3-pad2_  dc 1
* u3  out1 ? adc_bridge_1
* s c m o d e
* u5  in1 plot_v1
* u4  in2 plot_v1
a1 [net-_sc3-pad2_ ] [net-_sc2-pad2_ ] [net-_sc1-pad2_ ] [net-_sc1-pad1_ ] [gnd ] [gnd ] [net-_u1-pad7_ ] u1
a2 [net-_sc7-pad2_ ] [net-_sc6-pad2_ ] [net-_sc5-pad2_ ] [net-_sc4-pad2_ ] [gnd ] [gnd ] [net-_u2-pad7_ ] u2
a3 [out1 ] [? ] u3
* Schematic Name:                             mux61, NgSpice Name: mux61
.model u1 mux61(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             mux61, NgSpice Name: mux61
.model u2 mux61(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0.01e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in1)
plot v(in2)
.endc
.end
